US06071927
(2R,3R)-1-(Phenylmethoxycarbonyl)-2-phenylpiperidin-3-ol
(2R,3R)-3-Hydroxy-2-phenylpiperidine dibenzoyltartrate (prepared by the method European Patent Specification number 0 528 495-A, 35.6 g, 0.1 mol) was added slowly to a mixture of benzylchloroformate (21.4 mL, 25.6 g, 0.15 mol), dichloromethane (50 mL) and aqueous sodium hydroxide (1M, 500 mL). The mixture was stirred vigorously for 1 h., then further benzylchloroformate (8.0 mL, 9.56 g, 56 mmol) in dichloromethane (50 mL) was added slowly. The mixture was stirred vigorously overnight, the layers were separated and the aqueous layer was extracted with dichloromethane (100 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with hexane and the solid was collected and dried in vacuo to give the title compound as a colorless solid (29.53 g, 95%). 1H NMR (250 MHz, CDCl3) δ7.47-7.24 (10 H, m), 5.44 (1 H, d, J 5.7 Hz), 5.14 (1 H, d, J 12.4 Hz), 5.07 (1 H, d, J 12.4 Hz), 4.09 (2 H, m), 3.09 (1 H, m), and 1.88-1.58 (6 H, m).

reactant | (2R,3R)-3-Hydroxy-2-phenylpiperidine dibenzoyltartrate | C(C1=CC=CC=C1)(=O)C(C(C(=O)O)(O)C(C1=CC=CC=C1)=O)(O)C(=O)O.O[C@H]1[C@H](NCCC1)C1=CC=CC=C1
reactant | benzylchloroformate | 0.15 mol, 21.4 mL, 25.6 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 1M, 500 mL | [OH-].[Na+]
reactant | benzylchloroformate | 56 mmol, 8.0 mL, 9.56 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2R,3R)-1-(Phenylmethoxycarbonyl)-2-phenylpiperidin-3-ol | 29.53 g, 95% | C1(=CC=CC=C1)COC(=O)N1[C@@H]([C@@H](CCC1)O)C1=CC=CC=C1 | C19H21NO3
